US08563717B2
Intermediate 12: N2-Butyl-9-[(1-ethyl-3-piperidinyl)methyl]-8-methoxy-9H-purine-2,6-diamine
A stirring mixture of N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt (200 mg) and potassium carbonate (236 mg) in dry N,N-dimethylformamide (2 ml) was heated with stirring at 60° C. for 1 hour. 3-(Bromomethyl)-1-ethylpiperidine (141 mg) was added and the stirring mixture heated at 50° C. for 6 hours. After 72 hours at ambient temperature heating at 50° C. was continued for a further 6 hours to complete the reaction. Water was added and the mixture extracted three times with ethyl acetate. The combined extracts were washed with water then brine, dried by passing through a phase separation cartridge and stripped to give a brown oil. This was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluent (5-35%) and the appropriate fractions combined and evaporated to remove acetonitrile. The remaining aqueous mixture was made basic with saturated sodium hydrogen carbonate, extracted three times with dichloromethane and the combined extracts dried by passing through a phase separation cartridge then evaporated to afford the title compound as a clear oil (120 mg).

reactant | N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt | 200 mg | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 236 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(Bromomethyl)-1-ethylpiperidine | 141 mg | BrCC1CN(CCC1)CC | C8H16BrN
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N2-Butyl-9-[(1-ethyl-3-piperidinyl)methyl]-8-methoxy-9H-purine-2,6-diamine | 120 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC1CN(CCC1)CC)OC)N | C18H31N7O
